US06432982B1
[2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-cyanophenyl]methanone Hydrochloride
The title compound was prepared by dissolving 1.6 g (3.04 mmol) of [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-cyanophenyl]methanone hydrochloride in 20 mL of dichloroethane. 2.1 mL of condensed BCl3 was added and sealed in a vessel at room temperature. The reaction was allowed to proceed for sixteen hours. The reaction was quenched by pouring onto ice. The crude product was collected in the organic layer and evaporated to a solid. The product was further purified by chromatography and the hydrochloride prepared as in Preparation 1.

reactant | [2-(4-methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-cyanophenyl]methanone hydrochloride | 3.04 mmol, 1.6 g | Cl.COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)C#N
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]3-cyanophenyl]methanone Hydrochloride | Cl.OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(=O)C2=CC(=C(C=C2)OCCN2CCCCC2)C#N | InChI=1S/C29H26N2O4S.ClH/c30-18-21-16-20(6-11-25(21)35-15-14-31-12-2-1-3-13-31)28(34)27-24-10-9-23(33)17-26(24)36-29(27)19-4-7-22(32)8-5-19;/h4-11,16-17,32-33H,1-3,12-15H2;1H
